Op-amp 741 based circuit-2
*Including the predefined op-amp subcircuit file
.include ua741.txt
*Connections as mentioned in subcircuit file
x1 1 2 3 4 5 UA741
C1 0 1 47n
Rx1 2 5 10K
Rx2 2 6 10K 
R1 1 6 10K
vcc 3 0 dc 15v
vee 4 0 dc -15v
vin 6 0 dc 0 ac 0.5

.ac dec 10 1 10000Meg
.control 
run
*Magnitude dB plot for v(2) on log scale
plot vdb(5)-vdb(6)  
*print vdb(5)-vdb(6)
*Phase degrees plot for v(2) on log scale
plot {57.29*vp(5)} xlog
print {57.29*vp(5)}
.endc